US06300330B1
4-Cyanophenylboronic acid (1.49 g, 10 mmol), 4-bromopyridine hydrochloride (1.97 g, 10 mmol), 10% palladium-on-carbon (322 mg) and anhydrous sodium carbonate (2.15 g, 20 mmol) were refluxed in a mixture of ethanol (12 mL) and water (3 mL), overnight under an atmosphere of argon. The reaction mixture was filtered through diatomaceous earth, then concentrated in vacuo. The resulting white solid was separated between ethyl acetate (3×100 mL) and water (100 mL). The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo. The resulting solid was subjected to chromatography (SiO2; 50%, 60%, 70%, 80% ethyl acetate/iso-Hexane) to yield 4-(4-pyridyl)benzonitrile a crystalline white solid (1.60 g), 1H NMR (DMSO-d6) δ=7.77 ppm (dd,2H), δ=7.99 ppm (m,4H), δ=8.69 ppm (dd,2H); MS (M+H)+ 181.

reactant | 4-Cyanophenylboronic acid | 10 mmol, 1.49 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | 4-bromopyridine hydrochloride | 10 mmol, 1.97 g | Cl.BrC1=CC=NC=C1
reactant | sodium carbonate | 20 mmol, 2.15 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
catalyst | palladium-on-carbon | 322 mg | [Pd] | Pd
product | 4-(4-pyridyl)benzonitrile | N1=CC=C(C=C1)C1=CC=C(C#N)C=C1 | C12H8N2
